*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Industry Corporation
*
*  Conductive Polymer Aluminum Electrolytic Capacitor (SP-Cap)
*
*  Parts No. EEFSX0G221ER
*---------------------------------------------------------------
*  Capacitance : 220 uF , Rated Voltage : 4 V
*  ESR Max. : 9 mohm @100kHz
*
*  1  o---||---o  2
*
*  Conditions : Temperature = 20 degC , DC Bias = 0 V
*
*---------------------------------------------------------------
.SUBCKT	EEFSX0G221ER	1	2
R1	1	3	2.69E-03
R2	3	4	1.43E-01
R3	4	5	1.89E+01
R4	5	6	1.65E+02
R5	6	7	1.02E+03
C1	3	8	1.78E-04
C2	4	8	2.27E-05
C3	5	8	2.27E-06
C4	6	8	1.75E-06
C5	7	8	1.43E-06
R6	8	9	2.41E-03
R7	9	10	1.15E-01
R8	10	11	2.12E+00
R9	11	12	1.57E+01
R10	12	13	1.83E+02
L1	9	2	1.61E-09
L2	10	2	6.29E-09
L3	11	2	1.58E-08
L4	12	2	2.12E-08
L5	13	2	2.34E-08
.ENDS			
*$			
